US08071779B2
tert-Butyl 3-(1-(4-Methoxybenzyl)-1H-pyrrolo[2,3-b]pyridin-4-ylamino)piperidine-1-carboxylate
Reaction of 4-bromo-1-(4-methoxybenzyl)-1H-pyrrolo[2,3-b]pyridine with tert-butyl 3-aminopiperidine-1-carboxylate following the method of Example 13 affords the title compound.

reactant | 4-bromo-1-(4-methoxybenzyl)-1H-pyrrolo[2,3-b]pyridine | BrC1=C2C(=NC=C1)N(C=C2)CC2=CC=C(C=C2)OC | C15H13BrN2O
reactant | tert-butyl 3-aminopiperidine-1-carboxylate | NC1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
product | tert-Butyl 3-(1-(4-Methoxybenzyl)-1H-pyrrolo[2,3-b]pyridin-4-ylamino)piperidine-1-carboxylate | COC1=CC=C(CN2C=CC=3C2=NC=CC3NC3CN(CCC3)C(=O)OC(C)(C)C)C=C1 | C25H32N4O3
